### PR TITLE
[Merged by Bors] - feat: add Lindelöf spaces and sets

### PR DESCRIPTION
**Pull request by JADekker**
Add definition Lindelöf set, Lindelöf space, non-Lindelöf space. 
Add copyright header

### CODE REVIEW

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+* `IsLindelof`: a set such that each open cover has a countable subcover. This is defined in mathlib
+  using filters.
+* `LindelofSpace`: typeclass stating that the whole space is a Lindëlof set.
+* `NonLindelofSpace`: a space that is not a Lindëlof space.
+
+## Main results
+
+* ToBeAdded
+-/
+open Set Filter Topology TopologicalSpace Classical
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:24]: Do you really need to open `Classical`?
```suggestion

open Set Filter Topology TopologicalSpace

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+
+
+universe u v
+
+variable {X : Type u} {Y : Type v} {ι : Type*}
+
+variable [TopologicalSpace X] [TopologicalSpace Y] {s t : Set X}
+
+-- compact sets
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:33]:
```suggestion

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+section Lindelof
+
+/-- A set `s` is Lindelöf if for every nontrivial filter `f` with the countable intersection
+  property that contains `s`, there exists `a ∈ s` such that every set of `f`
+  meets every neighborhood of `a`. -/
+def IsLindelof (s : Set X) :=
+  ∀ ⦃f⦄ [NeBot f] [CountableInterFilter f], f ≤ 𝓟 s → ∃ x ∈ s, ClusterPt x f
+
+/-- Type class for Lindelöf spaces.  -/
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:42]: I'd rather have this docstring say what a Lindelöf space is. For instance: "`X` is Lindelöf space iff every open cover has a countable subcover".

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 4]
```diff
@@ -0,0 +1,50 @@
...
+class LindelofSpace (X : Type*) [TopologicalSpace X] : Prop where
+  /-- In a Lindelöf space, `Set.univ` is a Lindelöf set. -/
+  isLindelof_univ : IsLindelof (univ : Set X)
+
+/-- `X` is a non-Lindelöf topological space if it is not a Lindelöf space. -/
+class NonlindelofSpace (X : Type*) [TopologicalSpace X] : Prop where
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:48]: I wonder whether mathlib prefers "Nonlindelöf" or "NonLindelöf". (My gut feeling says the latter; "noncompact" is American English, whereas "Lindelöf" is a proper name and not an adjective.) In any case, I'll defer to a more experienced reviewer.

**Review by grunweg — COMMENTED** [review]
Welcome to mathlib and thanks for contributing! A few months back, I realised mathlib didn't have this concept, made a mental note to return to this and moved on to other things. I'm happy to see that you're adding this definition now. Thank you for doing this!

It looks like you already did all the general style things right. I only have three very minor comments. Mostly, I have suggestions what what you could do next :-) --- perhaps you know this already!

You have added some definitions; the next step is adding some "API" (basic lemmas you'd need to work with this definition). You basically already have
- `X` is a Lindelöf space iff `univ` is Lindelöf; if `X` is Lindelöf, `univ` is ([similar](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Compactness/Compact.html#isCompact_univ_iff) to compact sets)

I would be nice to also prove (but I don't know much work this is):
- `X` is Lindelöf iff every open cover has a countable subcover

Other useful lemmas I can think of, off the top of my head --- I think this PR has enough space for some of them; these can also be follow-up PRs:
- the empty set is Lindelöf
- countable unions of Lindelöf spaces are Lindelöf
- images of Lindelöf spaces are Lindelöf
- a closed subspace of a Lindelöf space is Lindelöf
- are there useful results about intersections?

If you're feeling ambitious, issue #7178 has some ideas for future PRs. (One more idea: can you give examples of Lindelöf or non-examples? (Does mathlib have e.g. the long line already? It might not.)) I'm just mentioning these to show the range of possibilities; you absolutely don't have to do these yourself!

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 1 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:24]: Not yet, but I've skimmed through the first dozen theorems in Compact, and they seem to carry over relatively easily to Lindelöf, so I thought I'd just leave Classical in there already; but you're right, it is not necessary as is.

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 3 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:42]: That is a good point, I'll add that definition, hopefully tomorrow. I didn't mention it yet, as I hadn't officially established that yet

**Comment by JADekker** [comment]
@grunweg Thank you for your kind words! I thought I'd keep the PR as small as possible to ensure that the definition is accepted before I'd sink a lot of work in working out the basic API. I looked at the API for Compact, and at first sight, the first few results seem to have clear analogues for Lindelöf, so I'm planning to get some work in on these during my daily commute. I'm not sure how quick this will go, the first two theorems took me relatively little time yesterday, but I'm still getting the hang of Lean (I worked through MIL), so I'll most probably hit some steep learning curves at some parts. 

I don't intend to work on adding examples (at this point), but I'll try to add (some of) the obvious implications (compact => Lindelöf etc.) at some point.

**Comment by JADekker** [comment]
@grunweg I just updated the PR, it now includes some results that pave the way towards "X is Lindelöf iff every cover has a countable subcover". The current PR is 150 lines, I guess that is a good size to make the reviewing manageable? 

I will keep deriving the rest of the needed results as the week progresses, but perhaps it is better to put these in a new PR to keep the chunks a bit smaller? Should I tag reviewers myself, or do admins generally sort that out?

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 5]
```diff
@@ -0,0 +1,359 @@
...
+  have hmono : ∀ ⦃s t : Set X⦄, s ⊆ t → (∃ r : Set ι, r.Countable ∧ t ⊆ ⋃ i ∈ r, U i)
+      → (∃ r : Set ι, r.Countable ∧ s ⊆ ⋃ i ∈ r, U i) := by
+    intro _ _ hst ⟨r, ⟨hrcountable,hsub⟩⟩
+    exact ⟨r,hrcountable,Subset.trans hst hsub⟩
+  have hcountable_union : ∀ (S : Set (Set X)), S.Countable
+      → (∀ s ∈ S, ∃ r : Set ι, r.Countable ∧ (s ⊆ ⋃ i ∈ r, U i))
+      → ∃ r : Set ι, r.Countable ∧ (⋃ s ∈ S, s ⊆ ⋃ i ∈ r, U i) := by
+    intro S hS hsr
+    choose! r hr using hsr
+    use ⋃ s ∈ S, r s
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:186]: You can also use refine here, as in `refine ⟨⋃ s ∈ S, r s, ?_, ?_⟩`.
Then you can even inline the proof of the first subgoal.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 6]
```diff
@@ -0,0 +1,359 @@
...
+
+/-- A filter with the countable intersection property that is finer than the principal filter on
+a Lindelöf set `s` contains any open set that contains all clusterpoints of `s`. -/
+theorem IsLindelof.adherence_nhdset {f : Filter X} [CountableInterFilter f] (hs : IsLindelof s)
+    (hf₂ : f ≤ 𝓟 s) (ht₁ : IsOpen t) (ht₂ : ∀ x ∈ s, ClusterPt x f → x ∈ t) : t ∈ f :=
+  Classical.by_cases mem_of_eq_bot fun (this : f ⊓ 𝓟 tᶜ ≠ ⊥) =>
+  have hinf : CountableInterFilter (f ⊓ 𝓟 tᶜ) := countableInterFilter_inf _ _
+  let ⟨x, hx, (hfx : ClusterPt x <| f ⊓ 𝓟 tᶜ)⟩ := @hs _ ⟨this⟩ hinf <| inf_le_of_left_le hf₂
+  have : x ∈ t := ht₂ x hx hfx.of_inf_left
+  have : tᶜ ∩ t ∈ 𝓝[tᶜ] x := inter_mem_nhdsWithin _ (IsOpen.mem_nhds ht₁ this)
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:167]: You can use dot notation here, as in
```suggestion
  have : tᶜ ∩ t ∈ 𝓝[tᶜ] x := inter_mem_nhdsWithin _ (ht₁.mem_nhds this)
 
Likewise in a few other places.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 7]
```diff
@@ -0,0 +1,359 @@
...
+    → ∃ u : Set ι, u.Countable ∧ (s ∩ ⋂ i ∈ u, t i) = ∅ :=
+  ⟨fun hs => hs.elim_countable_subfamily_closed, isLindelof_of_countable_subfamily_closed⟩
+
+/-- A compact set `s` is Lindelöf. -/
+theorem IsCompact.isLindelof :
+    IsCompact s → IsLindelof s := by tauto
+
+/-- A compact space `X` is Lindelöf. -/
+instance [CompactSpace X] : LindelofSpace X := by
+  refine { isLindelof_univ := ?isLindelof_univ }
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:357]: Combining the `apply`'s and inlining them, you can golf this to `exact { isLindelof_univ := isCompact_univ.isLindelof }`. (And then, `by` followed by `exact` can be replaced by just that proof term.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 8]
```diff
@@ -0,0 +1,359 @@
...
+    (∀ i, IsClosed (t i)) → (s ∩ ⋂ i, t i) = ∅
+    → ∃ u : Set ι, u.Countable ∧ (s ∩ ⋂ i ∈ u, t i) = ∅ :=
+  ⟨fun hs => hs.elim_countable_subfamily_closed, isLindelof_of_countable_subfamily_closed⟩
+
+/-- A compact set `s` is Lindelöf. -/
+theorem IsCompact.isLindelof :
+    IsCompact s → IsLindelof s := by tauto
+
+/-- A compact space `X` is Lindelöf. -/
+instance [CompactSpace X] : LindelofSpace X := by
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:356]: I'm not sure if making this an `instance` (as opposed to a theorem) is wise. (I don't have good intuition for this yet.)
An experienced reviewer should comment on this.

**Review by grunweg — COMMENTED** [review]
Overall: you added quite a lot of material; that's really nice to see!

I haven't digested all the maths proofs; I left a number of comments on documentation, about mathlib's preferred coding style and opportunities to ["golf"](https://leanprover-community.github.io/glossary.html#golfing) your code (the glossary is written for Lean 3, but this item applies well).
These are a lot of comments - I decided to tell you a lot of small tricks at once. Getting so many comments initially is completely normal.

Just FYI; I'll be on holiday until January 5th and not looking at mathlib.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 9]
```diff
@@ -0,0 +1,359 @@
...
+  meets every neighborhood of `a`. The equivalence of these two still needs to be proven in Mathlib
+  (Work in progress). -/
+def IsLindelof (s : Set X) :=
+  ∀ ⦃f⦄ [NeBot f] [CountableInterFilter f], f ≤ 𝓟 s → ∃ x ∈ s, ClusterPt x f
+
+/-- Type class for Lindelöf spaces.  -/
+class LindelofSpace (X : Type*) [TopologicalSpace X] : Prop where
+  /-- In a Lindelöf space, `Set.univ` is a Lindelöf set. -/
+  isLindelof_univ : IsLindelof (univ : Set X)
+
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:49]: This would be a good place to put two lemmas
- "X is a Lindelöf space iff univ is Lindelöf
- -if X is Lindelöf, univ is

These are mathematically obvious from your definition; such lemmas will be useful for working with Lindelöf spaces in mathlib.

**Comment by urkud** [comment]
About 2 years ago, I made a similar PR to Mathlib 3 but failed to get it merged before it rot. You may want to look at it for the list of useful results: https://github.com/leanprover-community/mathlib/pull/11716
I'm going to review your PR tomorrow. Thanks a lot for working on this!

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 10]
```diff
@@ -0,0 +1,359 @@
...
+We define the following properties for sets in a topological space:
+
+* `IsLindelof`: a set such that each open cover has a countable subcover. This is defined in Mathlib
+  using filters.
+* `LindelofSpace`: typeclass stating that the whole space is a Lindëlof set.
+* `NonLindelofSpace`: a space that is not a Lindëlof space.
+
+## Main results
+
+* ToBeAdded
```
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:24]: Will do, I'd say that there is no 'main result' yet, but I could write the filter def <-> countable subcover def here.

**Comment by JADekker** [comment]
@grunweg thank you for your remarks, I will incorporate them and make an updated PR soon, hopefully today. I'll probably halt adding new results and features until the current items are added to mathlib. 

@urkud thank you, I'll definitely look there for inspiration if I'm adding new components. Did you consider an equivalent definition of Lindelöf spaces in terms of ultrafilters? I could not find anything on this online, I tried eyeballing a definition (just add [CountableInterFilter] to the ultrafilter definition of IsCompact) but found that it would need some refinements of existing ultrafilter results, e.g. this one https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Specialising.20forall_neBot_le_iff.20to.20countable.20intersection/near/409457323. I'll try to incorporate the review by grunweg today and make a new PR!

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 11]
```diff
@@ -0,0 +1,359 @@
...
+  contrapose! hf
+  simp only [not_mem_iff_inf_principal_compl, compl_compl, inf_assoc] at hf ⊢
+  apply @hs
+  apply inf_le_right
+
+/-- The complement to a Lindelöf set belongs to a filter `f` with the countable intersection
+  property if each `x ∈ s` has a neighborhood `t` within `s` such that `tᶜ` belongs to `f`. -/
+theorem IsLindelof.compl_mem_sets_of_nhdsWithin (hs : IsLindelof s) {f : Filter X}
+    [CountableInterFilter f] (hf : ∀ x ∈ s, ∃ t ∈ 𝓝[s] x, tᶜ ∈ f) : sᶜ ∈ f := by
+  refine' hs.compl_mem_sets fun x hx => _
```
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:68]: Thanks, replaced!

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 12]
```diff
@@ -0,0 +1,359 @@
...
+  exact h₂ (h₁ hs)
+
+/-- If `p : Set X → Prop` is stable under restriction and union, and each point `x`
+  of a Lindelöf set `s` has a neighborhood `t` within `s` such that `p t`, then `p s` holds. -/
+@[elab_as_elim]
+theorem IsLindelof.induction_on (hs : IsLindelof s) {p : Set X → Prop} (he : p ∅)
+    (hmono : ∀ ⦃s t⦄, s ⊆ t → p t → p s)
+    (hcountable_union : ∀ (S : Set (Set X)), S.Countable → (∀ s ∈ S, p s) → p (⋃ s ∈ S, s))
+    (hnhds : ∀ x ∈ s, ∃ t ∈ 𝓝[s] x, p t) : p s := by
+  let f : Filter X :=
```
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:82]: I'll ask, I'll leave it in for now and refactor at a later stage if we decide on extracting the definition.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 13]
```diff
@@ -0,0 +1,359 @@
...
+      sets_of_superset := fun ht₁ ht => hmono (compl_subset_compl.2 ht) ht₁
+      inter_sets := by
+        intro ht₁ ht₂
+        simp [compl_inter]
+        intro p₁ p₂
+        let Se : Set (Set X) := {ht₁ᶜ, ht₂ᶜ}
+        have hSe : Se.Countable := by simp
+        have : ∀ s ∈ Se, p s := by
+          intros x hx
+          rcases hx with ⟨rfl|_⟩
```
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:94]: Oops, forgot about that! Thanks!

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 14]
```diff
@@ -0,0 +1,359 @@
...
+  /-- The set difference of a Lindelöf set and an open set is a Lindelöf set. -/
+theorem IsLindelof.diff (hs : IsLindelof s) (ht : IsOpen t) : IsLindelof (s \ t) :=
+  hs.inter_right (isClosed_compl_iff.mpr ht)
+
+/-- A closed subset of a Lindelöf set is a Lindelöf set. -/
+theorem IsLindelof.of_isClosed_subset (hs : IsLindelof s) (ht : IsClosed t) (h : t ⊆ s) :
+    IsLindelof t :=
+  inter_eq_self_of_subset_right h ▸ hs.inter_right ht
+
+/-- A continuous image of a Lindelöf set is a Lindelöf set within its image. -/
```
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:140]: Yes!

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 15]
```diff
@@ -0,0 +1,359 @@
...
+    (hmono : ∀ ⦃s t⦄, s ⊆ t → p t → p s)
+    (hcountable_union : ∀ (S : Set (Set X)), S.Countable → (∀ s ∈ S, p s) → p (⋃ s ∈ S, s))
+    (hnhds : ∀ x ∈ s, ∃ t ∈ 𝓝[s] x, p t) : p s := by
+  let f : Filter X :=
+    { sets := { t | p tᶜ }
+      univ_sets := by simpa
+      sets_of_superset := fun ht₁ ht => hmono (compl_subset_compl.2 ht) ht₁
+      inter_sets := by
+        intro ht₁ ht₂
+        simp [compl_inter]
```
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:88]: Thanks, I've cleaned these up!

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 9 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean]: Added!

**Comment by JADekker** [comment]
@urkud, I've incorporated all of the feedback by @grunweg in the most recent PR. I'm not certain if it is better to use Lindelöf or Lindelof in the actual object names, I feel that accents may become a bit unwieldy, but I'm happy to change that if you prefer!

**Comment by JADekker** [comment]
@grunweg, what do you mean with this request exactly? LindelofSpace is more towards the bottom of the file now, in line with the placement of CompactSpace in Compact.lean. 
https://github.com/leanprover-community/mathlib4/pull/9107#discussion_r1434552681

**Comment by grunweg** [comment]
Oh my, it seems Github is unhelpful here. I referred to my previous comment; now I see they're shown separately.

@JADekker What I meant is: Can you change the docstring of LindelofSpace` to something more descriptive, such as "X is Lindelöf space iff every open cover has a countable subcover"?

**Comment by JADekker** [comment]
Thank you for clarifying, I made a commit.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 16]
```diff
@@ -0,0 +1,357 @@
...
+  apply fun _ ↦ husub
+
+/-- For every open cover of a Lindelöf set, there exists a countable subcover. -/
+theorem IsLindelof.elim_countable_subcover_image {b : Set ι} {c : ι → Set X} (hs : IsLindelof s)
+    (hc₁ : ∀ i ∈ b, IsOpen (c i)) (hc₂ : s ⊆ ⋃ i ∈ b, c i) :
+    ∃ b', b' ⊆ b ∧ Set.Countable b' ∧ s ⊆ ⋃ i ∈ b', c i := by
+  simp only [Subtype.forall', biUnion_eq_iUnion] at hc₁ hc₂
+  rcases hs.elim_countable_subcover (fun i ↦ c i : b → Set X) hc₁ hc₂ with ⟨d, hd⟩
+  refine ⟨Subtype.val '' d, ?_, Countable.image hd.1 Subtype.val, ?_⟩-- d.image _, _⟩
+  · simp
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:271]: Another trick: you can inline the first subgoal via `by simp`. (Also, you can remove the commented code.)

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 17]
```diff
@@ -0,0 +1,357 @@
...
+    ∃ t : Set ι, t.Countable ∧ s ⊆ ⋃ i ∈ t, U i) :
+    IsLindelof s := fun f hf hfs ↦ by
+  contrapose! h
+  simp only [ClusterPt, not_neBot, ← disjoint_iff, SetCoe.forall',
+    (nhds_basis_opens _).disjoint_iff_left] at h
+  choose fsub U hU hUf using h
+  refine ⟨s, U, fun x ↦ (hU x).2, fun x hx ↦ mem_iUnion.2 ⟨⟨x, hx⟩, (hU _).1 ⟩, ?_ ⟩
+  intro t ht h
+  have uinf := f.sets_of_superset (le_principal_iff.1 fsub) h
+  have uninf : ⋂ i ∈ t, (U i)ᶜ ∈ f := by refine (countable_bInter_mem ht).mpr (fun _ _ ↦ hUf _)
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:288]: As a closing tactic, `exact` is preferred over `refine` or `apply`. (In this case, you can just remove the `by refine`, just giving a proof term.)
You have at least one other such place.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 18]
```diff
@@ -0,0 +1,357 @@
...
+  exact hs.induction_on he hmono hcountable_union h_nhds
+
+theorem IsLindelof.elim_nhds_subcover' (hs : IsLindelof s) (U : ∀ x ∈ s, Set X)
+    (hU : ∀ x (hx : x ∈ s), U x ‹x ∈ s› ∈ 𝓝 x) :
+    ∃ t : Set s, t.Countable ∧ s ⊆ ⋃ x ∈ t, U (x : s) x.2 := by
+  have := hs.elim_countable_subcover (fun x : s ↦ interior (U x x.2)) (fun _ ↦ isOpen_interior)
+    fun x hx ↦
+      mem_iUnion.2 ⟨⟨x, hx⟩, mem_interior_iff_mem_nhds.2 <| hU _ _⟩
+  rcases this with ⟨r,⟨hr,hs⟩⟩
+  use r, hr
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:192]: You can probably also condense these lines a bit.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 19]
```diff
@@ -0,0 +1,357 @@
...
+    choose! r hr using hsr
+    refine ⟨⋃ s ∈ S, r s, hS.biUnion_iff.mpr (fun s hs ↦ (hr s hs).1), ?_⟩
+    refine iUnion₂_subset ?h.right.h
+    simp only [mem_iUnion, exists_prop, iUnion_exists, biUnion_and']
+    exact fun i is x hx ↦ mem_biUnion is ((hr i is).2 hx)
+  have h_nhds : ∀ x ∈ s, ∃ t ∈ 𝓝[s] x, ∃ r : Set ι, r.Countable ∧ (t ⊆ ⋃ i ∈ r, U i) := by
+    intro x hx
+    let ⟨i, hi⟩ := mem_iUnion.1 (hsU hx)
+    refine ⟨U i, mem_nhdsWithin_of_mem_nhds ((hUo i).mem_nhds hi),{i}, ?_⟩
+    refine ⟨by simp, ?_⟩
```
Comment (grunweg) [inline Mathlib/Topology/Compactness/Lindelof.lean:180]: Some more general advice on mathlib style: if you just have two subgoals, I think "constructor" might be more readable. In this case, you can combine these into one line.
`refine ⟨U i, mem_nhdsWithin_of_mem_nhds ((hUo i).mem_nhds hi), {i}, by simp, ?_⟩`

**Review by grunweg — COMMENTED** [review]
Just four more comments/bits of advice about style.
Since @urkud will take a look, I'll defer the higher-level pieces to them.

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Topology/Compactness/Lindelof.lean:70]: You may want to use `Filter.ofCountableInter` here or add `Filter.complOfCountableUnion` and use it. This way you get `CountableInterFilter` for free.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 20]
```diff
@@ -0,0 +1,357 @@
...
+  exact this.neBot
+
+/-- A continuous image of a Lindelöf set is a Lindelöf set within the codomain. -/
+theorem IsLindelof.image {f : X → Y} (hs : IsLindelof s) (hf : Continuous f) :
+    IsLindelof (f '' s) := hs.image_of_continuousOn hf.continuousOn
+
+/-- A filter with the countable intersection property that is finer than the principal filter on
+a Lindelöf set `s` contains any open set that contains all clusterpoints of `s`. -/
+theorem IsLindelof.adherence_nhdset {f : Filter X} [CountableInterFilter f] (hs : IsLindelof s)
+    (hf₂ : f ≤ 𝓟 s) (ht₁ : IsOpen t) (ht₂ : ∀ x ∈ s, ClusterPt x f → x ∈ t) : t ∈ f :=
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:148]: While lots of API about compact sets is written with `f ≤ 𝓟 s` assumptions here and there, I think that having assumptions in non-simp form is not a good design decision. I would assume `s ∈ f` instead. But AFAIK we don't have coding style guidelines for this.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 21]
```diff
@@ -0,0 +1,357 @@
...
+
+/-- A compact set `s` is Lindelöf. -/
+theorem IsCompact.isLindelof (hs : IsCompact s) :
+    IsLindelof s := by tauto
+
+/-- A compact space `X` is Lindelöf. SHOULD THIS BE AN INSTANCE? -/
+instance [CompactSpace X] : LindelofSpace X := { isLindelof_univ := isCompact_univ.isLindelof}
+
+/-- `X` is a non-Lindelöf topological space if it is not a Lindelöf space. -/
+class NonLindelofSpace (X : Type*) [TopologicalSpace X] : Prop where
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:355]: Do you plan to add any instances of this typeclass? Any theorems about it?

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 22]
```diff
@@ -0,0 +1,357 @@
...
+  ⟨fun hs ↦ hs.elim_countable_subfamily_closed, isLindelof_of_countable_subfamily_closed⟩
+
+/-- The empty set is a Lindelof set. -/
+@[simp]
+theorem isLindelof_empty : IsLindelof (∅ : Set X) := fun _f hnf _ hsf↦
+  Not.elim hnf.ne <| empty_mem_iff_bot.1 <| le_principal_iff.1 hsf
+
+/-- A singleton set is a Lindelof set. -/
+@[simp]
+theorem isLindelof_singleton {x : X} : IsLindelof ({x} : Set X) := fun f hf _ hfa ↦
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:329]: This lemma (and the previous one) follow from `Set.Countable.isLindelof` (not yet in the PR).

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 23]
```diff
@@ -0,0 +1,357 @@
...
+  ⟨x, rfl, ClusterPt.of_le_nhds'
+    (hfa.trans <| by simpa only [principal_singleton] using pure_le_nhds x) hf⟩
+
+theorem Set.Subsingleton.isLindelof (hs : s.Subsingleton) : IsLindelof s :=
+  Subsingleton.induction_on hs isLindelof_empty fun _ ↦ isLindelof_singleton
+
+/-- X is a Lindelöf space iff every open cover has a countable subcover.-/
+class LindelofSpace (X : Type*) [TopologicalSpace X] : Prop where
+  /-- In a Lindelöf space, `Set.univ` is a Lindelöf set. -/
+  isLindelof_univ : IsLindelof (univ : Set X)
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:339]: One more typeclass I added in my PR is `StronglyLindelofSpace` assuming that every open set is Lindelof and implying that every set is Lindelof.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 24]
```diff
@@ -0,0 +1,357 @@
...
+import Mathlib.Topology.Bases
+import Mathlib.Order.Filter.CountableInter
+import Mathlib.Topology.Compactness.Compact
+
+/-!
+# Lindelöf sets and Lindelöf spaces
+
+## Main definitions
+
+We define the following properties for sets in a topological space:
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:15]: The module docstring is a good place to discuss equivalent definitions of the notions defined in this file, explain why these notions are useful etc. In this case, you should

- Say that Lindelöf sets/spaces can be defined via filters or via open subcovers. Currently, it looks like you're using 2 different definitions for `IsLindelof` and `LindelofSpace`.
- The API is based on the API of `IsCompact` (e.g., in the "Implementation Notes" section).
- A second-countable topological space is strongly Lindelöf.
- A countable set is Lindelöf; more generally, a countable union of Lindelöf sets is Lindelöf.
- A σ-compact space is Lindelöf and a locally compact Lindelöf space is σ-compact.
- Give or reference an example of a non-Lindelöf set.

I know that many existing module level docstrings are very short but we're trying to improve the documentation, starting with new files. The goal is to make the module docstrings readable for mathematicians who never saw the concepts discussed in the file before.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 25]
```diff
@@ -0,0 +1,357 @@
...
+
+variable {X : Type u} {Y : Type v} {ι : Type*}
+
+variable [TopologicalSpace X] [TopologicalSpace Y] {s t : Set X}
+
+section Lindelof
+
+/-- A set `s` is Lindelöf if for every nontrivial filter `f` with the countable intersection
+  property that contains `s`, there exists `a ∈ s` such that every set of `f`
+  meets every neighborhood of `a`. -/
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:40]: IMHO, "has a cluster point in `s`" is good enough. Also, please reference the filter-free definition `isLindelof_iff_countable_subcover` here.

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 20 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:148]: I agree that 's in f' may be more elegant, I just tried to keep as close to Compact as possible. Would you like me to change these? I'll make a PR with the other changes in the meanwhile, I'm happy to make a new one with this specific change!

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 21 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:355]: Yes, but I wanted to keep the PR small! I have about twice as much code about Lindelöf spaces lying arounds, including some basic results about it. Do you want me to add them to this PR already?

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 22 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:329]: Set.Countable.isLindelof requires some other dependencies, like Set.Countable.isLindelof_biUnion, which I have all finished but omitted from the PR to keep it small. Would you like me to add them?

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 23 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:339]: Yes, I saw that one, thought it'd be a good follow up PR to add the API for Strongly/Hereditarily Lindelöf spaces! Would you like them in this PR already?

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 24 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:15]: Thanks, I was not aware of that indeed. Most of these results are not yet in the PR, so I'll write in the module docstring what I have.

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 12 above)
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:77]: Yes, I was planning to do that, I was planning this as a follow-up for #9200.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 26]
```diff
@@ -0,0 +1,709 @@
...
+    rw [← range_inl_union_range_inr]
+    exact (isLindelof_range continuous_inl).union (isLindelof_range continuous_inr)⟩
+
+instance {X : ι → Type*} [Countable ι] [∀ i, TopologicalSpace (X i)] [∀ i, LindelofSpace (X i)] :
+    LindelofSpace (Σi, X i) := by
+  refine' ⟨_⟩
+  rw [Sigma.univ]
+  exact isLindelof_iUnion fun i => isLindelof_range continuous_sigmaMk
+
+instance Quot.LindelofSpace {r : X → X → Prop} [LindelofSpace X] : LindelofSpace (Quot r) :=
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:653]: Please add `LindelofSpace.of_continuous_surjective` constructor.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 27]
```diff
@@ -0,0 +1,709 @@
...
+for open sets in the definition, and then conclude that this holds for all sets by ADD. -/
+def IsHereditarilyLindelof (s : Set X) :=
+  ∀ t ⊆ s, IsOpen t → IsLindelof t
+
+/-- Type class for Hereditarily Lindelöf spaces.  -/
+class HereditarilyLindelofSpace (X : Type*) [TopologicalSpace X] : Prop where
+  /-- In a Hereditarily Lindelöf space, `Set.univ` is a Hereditarily Lindelöf set. -/
+  isHereditarilyLindelof_univ : IsHereditarilyLindelof (univ : Set X)
+
+instance SecondCountableTopology.to_HereditarilyLindelof [SecondCountableTopology X] :
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:671]: Instances like this one should have lower priority.

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 28]
```diff
@@ -0,0 +1,709 @@
...
+    rw [← range_quot_mk]
+    exact isLindelof_range continuous_quot_mk⟩
+
+instance Quotient.LindelofSpace {s : Setoid X} [LindelofSpace X] : LindelofSpace (Quotient s) :=
+  Quot.LindelofSpace
+
+/-- A set `s` is Hereditarily Lindelöf if every subset is a Lindelof set. We require this only
+for open sets in the definition, and then conclude that this holds for all sets by ADD. -/
+def IsHereditarilyLindelof (s : Set X) :=
+  ∀ t ⊆ s, IsOpen t → IsLindelof t
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:664]: I think that this definition doesn't work for any set `s`. E.g., if `s` has no interior points, then it is hereditarily Lindelöf in the sense of this definition. Should it be something like this?
```
∀ t, IsOpen t → IsLindelof (t ∩ s)
```
Please verify that your definition is correct by proving
```
lemma IsHereditarilyLindelof.isLindelof_subset (hs : IsHereditarilyLindelof s) (ht : t ⊆ s) :
    IsLindelof t := _

lemma IsHereditarilyLindelof.isLindelof (hs : IsHereditarilyLindelof s) :
    IsLindelof s := hs.isLindelof_subset Subset.rfl
```

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 7 above)
Comment (urkud) [reply Mathlib/Topology/Compactness/Lindelof.lean:684]: Why not use `where` notation here?

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 29]
```diff
@@ -0,0 +1,709 @@
...
+  replace ht := mem_inf_principal.1 ht
+  apply mem_inf_of_inter ht hst
+  exact fun x ⟨h₁, h₂⟩ hs ↦ h₂ (h₁ hs)
+
+/-- If `p : Set X → Prop` is stable under restriction and union, and each point `x`
+  of a Lindelöf set `s` has a neighborhood `t` within `s` such that `p t`, then `p s` holds. -/
+@[elab_as_elim]
+theorem IsLindelof.induction_on (hs : IsLindelof s) {p : Set X → Prop}
+    (hmono : ∀ ⦃s t⦄, s ⊆ t → p t → p s)
+    (hcountable_union : ∀ (S : Set (Set X)), S.Countable → (∀ s ∈ S, p s) → p (⋃ s ∈ S, s))
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:75]:
```suggestion
    (hcountable_union : ∀ (S : Set (Set X)), S.Countable → (∀ s ∈ S, p s) → p (⋃₀ S))
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 30]
```diff
@@ -0,0 +1,709 @@
...
+    (hnhds : ∀ x ∈ s, ∃ t ∈ 𝓝[s] x, p t) : p s := by
+  let f : Filter X := by
+    apply ofCountableUnion p ?_ (fun t ht _ hsub ↦ hmono hsub ht)
+    intro S hSc hS
+    rw [Set.sUnion_eq_biUnion]
+    exact hcountable_union S hSc hS
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:81]: With the previous suggestion:
```suggestion
  let f : Filter X := ofCountableUnion p hcountable_union (fun t ht _ hsub ↦ hmono hsub ht)
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 31]
```diff
@@ -0,0 +1,709 @@
...
+  ∀ ⦃f⦄ [NeBot f] [CountableInterFilter f], f ≤ 𝓟 s → ∃ x ∈ s, ClusterPt x f
+
+/-- The complement to a Lindelöf set belongs to a filter `f` with the countable intersection
+  property if it belongs to each filter `𝓝 x ⊓ f`, `x ∈ s`. -/
+theorem IsLindelof.compl_mem_sets (hs : IsLindelof s) {f : Filter X} [CountableInterFilter f]
+    (hf : ∀ x ∈ s, sᶜ ∈ 𝓝 x ⊓ f) : sᶜ ∈ f := by
+  contrapose! hf
+  simp only [not_mem_iff_inf_principal_compl, compl_compl, inf_assoc] at hf ⊢
+  apply @hs
+  apply inf_le_right
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:58]:
```suggestion
  exact hs inf_le_right
```

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 28 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:664]: Perhaps requiring `IsOpen` is a bit clumsy, I'll just get rid of it here (as the official definition doesn't require it either!) and remove the lemma that concluded the more general case!

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 32]
```diff
@@ -0,0 +1,709 @@
...
+
+instance HereditarilyLindelof.to_Lindelof [HereditarilyLindelofSpace X] : LindelofSpace X := by
+  refine { isLindelof_univ := ?isLindelof_univ }
+  apply HereditarilyLindelofSpace.isHereditarilyLindelof_univ <;> simp
+
+instance SecondCountableTopology.to_Lindelof [SecondCountableTopology X] : LindelofSpace X := by
+  apply HereditarilyLindelof.to_Lindelof
+
+theorem HereditarilyLindelof_LindelofSets [HereditarilyLindelofSpace X] (s : Set X):
+    IsLindelof s := by
```
[the remark this answers is not in the document]
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:691]: I've added my interpretation of `instance HereditarilyLindelof.lindelofSpace_subtype` and the lemma (first is near the end of the file, other one is a bit further up. After I submit the PR, please let me know what you think!

File: Mathlib/Topology/Compactness/Lindelof.lean (hunk 26 above)
Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:653]: What do you mean? That a `continuous` `surjective` image of a Lindelöf space is a Lindelöf space? We don't need surjective here, right?

Comment (JADekker) [reply Mathlib/Topology/Compactness/Lindelof.lean:650]: Done!

**Comment by urkud** [comment]
Please ensure that every instance that applies to all spaces (e.g., "every second-countable topology is Lindelof") has low priority. We want Lean to try type-specific instances first.

**Comment by JADekker** [comment]
> Please ensure that every instance that applies to all spaces (e.g., "every second-countable topology is Lindelof") has low priority. We want Lean to try type-specific instances first.

Done!

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 33]
```diff
@@ -0,0 +1,716 @@
...
+  apply HereditarilyLindelofSpace.isHereditarilyLindelof_univ
+  exact subset_univ s
+
+instance (priority := 100) SecondCountableTopology.to_HereditarilyLindelof
+    [SecondCountableTopology X] : HereditarilyLindelofSpace X := by
+  refine { isHereditarilyLindelof_univ := ?isHereditarilyLindelof_univ }
+  unfold IsHereditarilyLindelof
+  intro t _ _
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:694]:
```suggestion
    [SecondCountableTopology X] : HereditarilyLindelofSpace X where
  isHereditarilyLindelof_univ := fun t _ _ ↦ by
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 34]
```diff
@@ -0,0 +1,716 @@
...
+  refine { isLindelof_univ := ?isLindelof_univ }
+  apply HereditarilyLindelofSpace.isHereditarilyLindelof_univ
+  exact univ_subset_iff.mpr rfl
+
+theorem HereditarilyLindelof_LindelofSets [HereditarilyLindelofSpace X] (s : Set X):
+    IsLindelof s := by
+  apply HereditarilyLindelofSpace.isHereditarilyLindelof_univ
+  exact subset_univ s
+
+instance (priority := 100) SecondCountableTopology.to_HereditarilyLindelof
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:690]:
```suggestion
instance (priority := 100) SecondCountableTopology.toHereditarilyLindelof
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 35]
```diff
@@ -0,0 +1,716 @@
...
+    IsLindelof t := hs t ht
+
+lemma IsHereditarilyLindelof.isLindelof (hs : IsHereditarilyLindelof s) :
+    IsLindelof s := hs.isLindelof_subset Subset.rfl
+
+instance (priority := 100) HereditarilyLindelof.to_Lindelof [HereditarilyLindelofSpace X] :
+    LindelofSpace X := by
+  refine { isLindelof_univ := ?isLindelof_univ }
+  apply HereditarilyLindelofSpace.isHereditarilyLindelof_univ
+  exact univ_subset_iff.mpr rfl
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:683]:
```suggestion
    LindelofSpace X where
  isLindelof_univ := HereditarilyLindelofSpace.isHereditarilyLindelof_univ.isLindelof
```

File: Mathlib/Topology/Compactness/Lindelof.lean [hunk 36]
```diff
@@ -0,0 +1,716 @@
...
+  intro ι U hι hcover
+  have := @isOpen_iUnion_countable X _ _ ι U hι
+  rcases this with ⟨t,⟨htc, htu⟩⟩
+  use t, htc
+  exact subset_of_subset_of_eq hcover (id htu.symm)
+
+instance (priority := 100) SecondCountableTopology.to_Lindelof [SecondCountableTopology X] :
+    LindelofSpace X := by
+  apply HereditarilyLindelof.to_Lindelof
+
```
Comment (urkud) [inline Mathlib/Topology/Compactness/Lindelof.lean:705]: You shouldn't need this instance.

```suggestion
```

**Comment by urkud** [comment]
After these few changes, please merge `master`, make sure that CI is happy and merge. Thanks!

bors d+

P.S.: After it lands, I'm going to split this file into smaller pieces but let's already merge it without waiting for this.

**Comment by JADekker** [comment]
@urkud thanks,I’ll merge master and the changes when I get in the office today. I think (90% sure, might’ve added them in already. I’ll check this in the office as well) I have some more results for Lindelöf spaces that I haven’t added yet (because I was concerned about the PR size). Would you like me to make a new PR for these before you do the split or wait until you have split the files?
